US09290451B2
b) 5-Cyclopropyl-6-(tetrahydro-furan-2-ylmethoxy)-pyridine-2-carboxylic acid (1-ethyl-1-methylcarbamoyl-propyl)-amide
The title compound was synthesized in analogy to Example 1, using 2-(5-cyclopropyl-6-((tetrahydrofuran-2-yl)methoxy)picolinamido)-2-ethylbutanoic acid and methanamine hydrochloride as starting materials, MS (EI): m/e=390.3 [M+H]+.

reactant | 2-(5-cyclopropyl-6-((tetrahydrofuran-2-yl)methoxy)picolinamido)-2-ethylbutanoic acid | C1(CC1)C=1C=CC(=NC1OCC1OCCC1)C(=O)NC(C(=O)O)(CC)CC | C20H28N2O5
reactant | methanamine hydrochloride | Cl.CN
product | 5-Cyclopropyl-6-(tetrahydro-furan-2-ylmethoxy)-pyridine-2-carboxylic acid (1-ethyl-1-methylcarbamoyl-propyl)-amide | C(C)C(CC)(C(NC)=O)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1OCCC1 | C21H31N3O4
